US05631372
A solution of 1-benzoyl-4-aza-1-azoniabicyclo[2.2.2]octane tetrafiuoroborate (32 g, 10 mmole) and boron trifluoride gas (6.7 g, 10 mmole) in acetonitrile (125 mL) was cooled to 8° C. and treated with a mixture of fluorine in nitrogen (10 % V/V, 12 mmole). The reaction was evaporated, the remaining solid washed with DME and dried to afford 1-benzoyl-4-fluoro-1,4-diazoniabicyclo[2.2.2]octane bis(tetrafluoroborate).

reactant | 1-benzoyl-4-aza-1-azoniabicyclo[2.2.2]octane tetrafiuoroborate | 10 mmole, 32 g | F[B-](F)(F)F.C(C1=CC=CC=C1)(=O)[N+]12CCN(CC1)CC2
reactant | boron trifluoride | 10 mmole, 6.7 g | B(F)(F)F | BF3
reactant | fluorine | FF | F2
solvent | acetonitrile | 125 mL | C(C)#N | C2H3N
product | 1-benzoyl-4-fluoro-1,4-diazoniabicyclo[2.2.2]octane bis(tetrafluoroborate) | F[B-](F)(F)F.F[B-](F)(F)F.C(C1=CC=CC=C1)(=O)[N+]12CC[N+](CC1)(CC2)F | InChI=1S/C13H17FN2O.2BF4/c14-16-9-6-15(7-10-16,8-11-16)13(17)12-4-2-1-3-5-12;2*2-1(3,4)5/h1-5H,6-11H2;;/q+2;2*-1
